Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Nausea, vomiting, lightheadedness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo M with a history of barretts esophagus presented with n/v
after eating a marijuana edible this evening. He went to dinner
with his wife, then came home, vomited and became lightheaded,
and was taken to the ED. On the way patient fainted, chipping
both two front teeth. In the ED, he vomited twice more, was 
found
to be in atrial fibrillation, and had ___ second pauses each
time. Since then, he has felt well and his heart rate has been
110-130s.

On my interview, he denied chest pain, palpitations, sob,
orthopnea, episodes of syncope, lightheadedness, PND, weight
change, nausea, vomiting (aside from this evening). 

In ED initial VS: 97.7 F, BP 110/70s, HR ___, RR 20, 93% NC
Labs significant for: WBC 12.4, Hgb 12.5, lytes wnl, AST 54, tox
screen negative, lactate 2.5
Patient was given:
___ 20:17IVFNS
___ 20:30IVLORazepam 1 mg
___ 20:48IVOndansetron 4 mg
___ 21:28IVFNS 1000 mL
___ 21:28IVFNS
___ 23:09IVFNS
___ 23:44IVFNS 
___ 02:58IVFNS 1000 mL

Imaging notable for:
CXR No acute cardiopulmonary abnormality. CT spine, head
unremarkable 
EP consulted in the ED:  Recommended
"Continue to monitor rates, No need for rate or rhythm control 
at
this point; would prefer to let THC get out of his system and 
see
how he does in the morning, call cardiology if prolonged
pauses/episode of syncope, follow up with outpatient providers"
Transferring vitals:98.0 114 139/83 18 95% RA

PAST MEDICAL HISTORY:
Barretts, one prior episode of afib in a similar situation (ate 
a
strong edible)

Medications: omeprazole

Social: former smoker, no alcohol, weekly thc

 
Past Medical History:
Barretts, one prior episode of afib in a similar situation (ate 
a
strong edible)

 
Social History:
former smoker, no alcohol, weekly ___
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================

VITALS:97.8 ___
GENERAL: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, injected
conjunctiva 
NECK: supple, JVP not elevated, no LAD
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi
CV: tachycardia , normal S1 S2, no murmurs, rubs, gallops
ABD: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or
edema
SKIN: no rashes, lesions, edema

DISCHARGE PHYSCIAL EXAM
=======================

VITALS:99.9 PO 130 / 73 107 18 93 Ra 
GENERAL: lying in bed, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
NECK: supple
LUNGS: Clear to auscultation bilaterally, no wheezes, rales,
rhonchi
CV: tachycardia , normal S1 S2, no murmurs, rubs, gallops
ABD: soft, non-tender, non-distended, bowel sounds present, no
rebound tenderness or guarding, no organomegaly
EXT: Warm, no clubbing, cyanosis or edema
SKIN: no rashes, lesions, edema
 
Pertinent Results:
PERTINENT LABS

___ 08:00PM BLOOD WBC-12.4* RBC-4.62 Hgb-12.5* Hct-38.3* 
MCV-83 MCH-27.1 MCHC-32.6 RDW-14.5 RDWSD-43.4 Plt ___
___ 07:30AM BLOOD WBC-13.8* RBC-4.38* Hgb-11.7* Hct-36.1* 
MCV-82 MCH-26.7 MCHC-32.4 RDW-14.3 RDWSD-43.0 Plt ___
___ 03:25PM BLOOD WBC-13.4* RBC-4.38* Hgb-11.9* Hct-36.6* 
MCV-84 MCH-27.2 MCHC-32.5 RDW-14.5 RDWSD-44.0 Plt ___

___ 08:00PM BLOOD Glucose-142* UreaN-16 Creat-1.2 Na-140 
K-5.0 Cl-102 HCO3-22 AnGap-16
___ 08:00PM BLOOD ALT-25 AST-54* AlkPhos-84 TotBili-0.3
___ 08:00PM BLOOD Lipase-35
___ 08:00PM BLOOD cTropnT-<0.01
___ 03:25PM BLOOD Calcium-8.9 Phos-3.5 Mg-1.9
___ 08:00PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 08:40PM BLOOD Lactate-2.5*
___ 08:21AM BLOOD Lactate-2.9*
___ 03:20PM BLOOD Lactate-1.4

IMAGING

CT HEAD W/O CONTRAST ___

IMPRESSION: 
  
  
1. No acute intracranial abnormality. 
2. No fracture. 
3. Paranasal sinus disease. 

CT C-SPINE W/O CONTRAST ___

IMPRESSION: 
  
  
1. No cervical spine fracture. 
2. Multilevel moderate to severe degenerative changes, worse in 
the lower 
cervical spine. 
  
CXR ___

IMPRESSION:  
  
No acute cardiopulmonary abnormality. 

 
Brief Hospital Course:
___ yo M with a history of barretts esophagus presented with n/v, 
lightheadedness and loss of consciousness after eating a 
marijuana edible the evening prior to admission also found to be 
in Afib with ___ second pauses.

#Fall
In the setting of THC consumption.  Head CT was negative for 
intracranial bleed and fracture. C-spine CT was negative for 
cervical spine fracture.

#Nausea, vomiting
#Atrial fibrillation
The patient's presentation was likely in the setting of 
marijuana consumption the evening prior to admission.  Nausea 
and vomiting resolved overnight.
On admission, the patient was found to be in atrial fibrillation 
with ventricular heart rates between 100 and 130 with ___ second 
pauses. His A. fib RVR was likely paroxysmal in the setting of 
THC consumption. Per cardiology, he was started on Metoprolol 
succinate 25mg daily.  The patient wanted to defer discussion 
about anticoagulation (chads-vasc score of 1) and speak with his 
own PCP and cardiologist. However, he agreed to a baby aspirin 
and was started on aspirin 81 mg daily. His ___ second pauses 
occurred while still in atrial fibrillation and during vomiting. 
These therefore appeared to be related to vagal stimuli with the 
vomiting without subsequent bradycardia. Since the bradycardia 
occurred under known circumstances of intense vomiting, there is 
no need for further monitoring here. 
Follow-up with his outpatient cardiologist to discuss 
anticoagulation in the setting of a low CHADS score and 
conversion to sinus rhythm is recommended. We would recommend 
outpatient ambulatory ECG monitoring and echocardiography
if this has not already been done recently at home.

#Elevated lactate, leukocytosis: 
Likely in the setting of stress reaction/ vomiting/ hypovolemia. 

No concern for infection. His lactate and WBC were downtrending 
prior to discharge (on discharge, 1.4 and 13.4, respectively).

#GERD: continued omeprazole 

MEDICATION CHANGES
==================

-started on Aspirin 81mg QD
-started on Metoprolol succinate 25mg QD

TRANSITIONAL ISSUES
===================

Follow-up with his outpatient cardiologist to discuss 
anticoagulation in the setting of a low CHADS score and 
conversion to sinus rhythm is recommended. We would recommend 
outpatient ambulatory ECG monitoring and echocardiography
if this has not already been done recently at home.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
2.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
3.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# THC consumption
# Atrial fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___!

Why was I admitted to the hospital?
- you had nausea and vomiting. In addition, you felt lightheaded 
and had lost consciousness
- Your symptoms were likely from THC consumption
- You were also found to have a heart arrhythmia called atrial 
fibrillation for which you were started on Aspirin and 
Metoprolol. This condition is also a risk factor for stroke and 
blood thinning medication can help to prevent that. You wanted 
to talk to your own Cardiologist about a blood thinning 
medication.

What should I do after I leave the hospital?
- you should continue taking the medications as below and 
follow-up with your PCP and ___ to discuss treatment of 
atrial fibrillation

All the best,

Your ___ healthcare team
 
Followup Instructions:
___